US08461158B2
Reaction of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate (513 mg, 0.896 mmol) with an excess of TFA (2 mL) in CH2Cl2 (10 mL) at room temperature for 3 hrs, followed by treatment with aq. NH3 gave 385 mg (91% yield) of 3-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-8-oxa-3-azabicyclo[3.2.1]octane: mp 221-223° C.; 1H NMR (CDCl3) δ7.90 (dd, J=8.4, 0.6 Hz, 1H), 7.51 (t, JHF=53.6 Hz, 1H), 7.35 (t, J=8.2 Hz, 1H), 6.81 (d, J=7.7 Hz, 1H), 4.47 (d, J=9.6 Hz, 2H), 4.33 (t, J=12.1 Hz, 2H), 4.05 (s, 3H), 3.86 (br s, 4H), 3.28 (dd, J=32.5, 12.3 Hz, 2H), 2.95 (br s, 4H), 1.98 (dd, J=8.3, 4.5 Hz, 2H), 1.80 (m, 2H).

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | 0.896 mmol, 513 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CC3CCC(C1)O3)N3CCN(CC3)C(=O)OC(C)(C)C)C=CC=C2OC)F | C27H34F2N8O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-8-oxa-3-azabicyclo[3.2.1]octane | 385 mg, 91% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCNCC1)N1CC3CCC(C1)O3)C=CC=C2OC)F | C22H26F2N8O2
